US04940713
(d) Preparation of Diethyl N-[4-[[4-(2,4-diamino-1,6-dihydro-6-oxo-5-pyrimidinyl)butyl]tosylamino]benzoyl]-(L)-glutamate
To a stirred mixture of 1.00 g (0.00209 mol) of 4-[[4-(2,4-diamino-1,6-dihydro-6-oxo-5-pyrimidinyl)butyl]tosylamino]benzoic acid.0.13 acetic acid in 6 mL of dry dichloromethane and 6 mL of dry dimethylformamide under nitrogen was added 0.433 g (0.00313 mol) of 1-hydroxybenzotriazole. After 17 min, to the mixture was added 0.646 g (0.00313 mol) of 1,3-dicyclohexylcarbodiimide and then 6 mL more dry dimethylformamide and 6 mL more dry dichloromethane. After 1 h 6 min, to the mixture was added a cloudy solution of 0.750 g (0.00313 mol) of diethyl glutamate hydrochloride and 0.633 g (0.00626 mol) of 4-methylmorpholine in 6 mL of dry dichloromethane and 6 mL of dry dimethylformamide. The mixture was stirred under nitrogen for 59 h 20 min, and to it was added 0.431 g (0.00209 mol) of 1,3-dicyclohexylcarbodiimide. The mixture was stirred for 17 h 15 min and was concentrated under vacuum at 33° C. to a residue to which was added 25 mL of methanol. Undissolved white solid was collected by suction filtration, and the filtrate was purified by a flash chromatography column consisting of 175 g of Silica Gel 60 with 8:1 ethyl acetate/methanol as the eluting solvent. Major fractions containing product were combined and concentrated under vacuum to an off-white solid; yield, 0.74 g (~50%): NMR (Me2SOd6) δ 1.14 (t, 3H), 1.17 (t, 3H), 1.2-1.4 (m, 4H), 1.9-2.2 (m, 4H), 2.37 (s, 3H) 2.4 (t, 2H), 3.55 (t, 2H), 4.03 (q, 2H), 4.10 (q, 2H), 4.41 (m, 1H), 5.58 (br s, 2H), 5.85 (br s, 2H), 7.15 (d, 2H), 7.3-7.5 (AA'BB', 4H), 7.81 (d, 2H), 8.75 (d, 1H), 9.68 (br s, 1H), 0.12 mol of dimethylformamide, 0.1 mol of an impurity containing a CONHCH moiety.

reactant | 4-[[4-(2,4-diamino-1,6-dihydro-6-oxo-5-pyrimidinyl)butyl]tosylamino]benzoic acid | 0.00209 mol, 1.00 g | NC=1NC(C(=C(N1)N)CCCCN(C1=CC=C(C(=O)O)C=C1)S(=O)(=O)C1=CC=C(C)C=C1)=O | C22H25N5O5S
reactant | 1-hydroxybenzotriazole | 0.00313 mol, 0.433 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1,3-dicyclohexylcarbodiimide | 0.00313 mol, 0.646 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | diethyl glutamate hydrochloride | 0.00313 mol, 0.750 g | Cl.N[C@@H](CCC(=O)OCC)C(=O)OCC
reactant | 4-methylmorpholine | 0.00626 mol, 0.633 g | CN1CCOCC1 | C5H11NO
reactant | 1,3-dicyclohexylcarbodiimide | 0.00209 mol, 0.431 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Diethyl N-[4-[[4-(2,4-diamino-1,6-dihydro-6-oxo-5-pyrimidinyl)butyl]tosylamino]benzoyl]-(L)-glutamate | NC=1NC(C(=C(N1)N)CCCCN(C1=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C1)S(=O)(=O)C1=CC=C(C)C=C1)=O | C31H40N6O8S
